### ISSUE TITLE
`fprop` struggles with universes

### ISSUE THREAD

**Issue by lecopivo** [lecopivo/SciLean#13]
`fprop` fails to prove the following theorem if `Y` is universe polymorphic

```
import SciLean

open SciLean

variable 
  {R : Type} [IsROrC R]
  {X : Type _} [SemiInnerProductSpace R X] 

open ComplexConjugate

-- does not work
example {Y : Type _} [SemiHilbert R Y]
  (g : X → Y)
  (hg : HasSemiAdjoint R g)
  : ∀ y₁ : Y, SciLean.HasSemiAdjoint R (fun xy : X×Y =>
        let dy₂ := g xy.1;
        ⟪xy.snd, g x⟫[R] + ⟪y₁, dy₂⟫[R]) := 
by
  intros
  fprop


-- works
example {Y : Type} [SemiHilbert R Y]
  (g : X → Y)
  (hg : HasSemiAdjoint R g)
  : ∀ y₁ : Y, SciLean.HasSemiAdjoint R (fun xy : X×Y =>
        let dy₂ := g xy.1;
        ⟪xy.snd, g x⟫[R] + ⟪y₁, dy₂⟫[R]) := 
by
  intros
  fprop
```

**Comment by lecopivo** [comment]
Another example of universe problems
```
import SciLean

open SciLean

variable 
  {K : Type _} [RealScalar K]
  {W : Type _} [SemiInnerProductSpace K W]

-- does not work
example (f : W → Fin 10 → K) (hf : ∀ i, HasAdjDiff K (f · i)) (i : Fin 10)
  : HasAdjDiff K (fun w => ‖f w i‖₂²[K]) := 
by 
  fprop
```
but it works when `{K : Type}` and `{W : Type}`

**Comment by lecopivo** [comment]
Another problem with universe polymorphism
```
import SciLean.Core.FunctionTransformations.CDeriv

open SciLean

variable 
  {K : Type _} [IsROrC K]
  {α : Type _} -- problematic universe

example (i : α) : IsDifferentiable K (fun (xy : (α → K) × (α → K)) => xy.fst i) := by fprop
```
however this might be a different issue as there is a problem with synthesizing `Vec K (α → K)`
